US04362732
A mixture of 1.61 g (5.6 mmol) of ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a]pyrido[2,3-f][1,4]-diazepine-3-carboxylate, 0.33 g (8.2 mmol) of sodium hydroxide, 9 ml of water and 27 ml of ethyl alcohol is heated to boiling under reflux for 25 minutes. The mixture is treated with 8.2 ml of 1 N hydrochloric acid, the ethanol is removed by distillation, the residue is diluted with water and left to stand in an ice-bath for 1 hour. The precipitated material is filtered off under suction, washed with water and dried. There is obtained 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a]pyrido[2,3-f][1,4]diazepine-3-carboxylic acid of melting point 292°-295°.

reactant | ethyl 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a]pyrido[2,3-f][1,4]-diazepine-3-carboxylate | 5.6 mmol, 1.61 g | CN1CC=2N(C3=C(C1=O)N=CC=C3)C=NC2C(=O)OCC | C14H14N4O3
reactant | sodium hydroxide | 8.2 mmol, 0.33 g | [OH-].[Na+]
reactant | water | 9 ml | O | H2O
reactant | hydrochloric acid | 1 N, 8.2 ml | Cl | ClH
solvent | ethyl alcohol | 27 ml | C(C)O | C2H6O
product | 5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a]pyrido[2,3-f][1,4]diazepine-3-carboxylic acid | CN1CC=2N(C3=C(C1=O)N=CC=C3)C=NC2C(=O)O | C12H10N4O3
